US06127541
4-Isopropylaminobenzonitrile
According to a similar manner to that in Reference Example 3, the title compound was synthesized from 4-fluorobenzonitrile and isopropylamine.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 4-Isopropylaminobenzonitrile | C(C)(C)NC1=CC=C(C#N)C=C1 | C10H12N2
